US07973051B2
iv) 5-Ethyl-4-phenyl-thiazol-2-ylamine
The above prepared 5-ethynyl-4-phenyl-thiazol-2-ylamine (0.665 g, 3.321 mmol) was dissolved in 12 mL of ethyl acetate and hydrogenated over 0.330 g of Pd on charcoal (10%) at atmospheric pressure and ambient temperature over night. Filtration over a pad of Celite and evaporation off all solvents, followed by flash chromatography (SiO2, hexane/ethyl acetate=65/35), yielded 0.505 g of the title product as yellow viscous oil.

reactant | 5-ethynyl-4-phenyl-thiazol-2-ylamine | 3.321 mmol, 0.665 g | C(#C)C1=C(N=C(S1)N)C1=CC=CC=C1 | C11H8N2S
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on charcoal | 0.330 g | [Pd] | Pd
product | 5-Ethyl-4-phenyl-thiazol-2-ylamine | 0.505 g | C(C)C1=C(N=C(S1)N)C1=CC=CC=C1 | C11H12N2S
